US04005217
N-(4-methoxycarbonylamino-2-nitrophenyl)-2-bromoacetamide (25 g) in ethanol (250 ml) was treated with a solution of dimethylamine in ethanol (35.5 g of a 30% w/w solution) and the mixture refluxed for one hour. The ethanol was evaporated and the residual solid shaken with water and filtered to give N-(4-methoxycarbonylamino-2-nitrophenyl)-2-dimethylaminoacetamide (21.1 g), m.p. 186°-189° C.

reactant | N-(4-methoxycarbonylamino-2-nitrophenyl)-2-bromoacetamide | 25 g | COC(=O)NC1=CC(=C(C=C1)NC(CBr)=O)[N+](=O)[O-] | C10H10BrN3O5
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-(4-methoxycarbonylamino-2-nitrophenyl)-2-dimethylaminoacetamide | 21.1 g | COC(=O)NC1=CC(=C(C=C1)NC(CN(C)C)=O)[N+](=O)[O-] | C12H16N4O5
